US08791130B2
4-(5-Chloro-4-(methylamino)pyrimidin-2-ylamino)-3-methoxy-N-methylbenzamide was prepared by the procedure described in Example 7 using 4-amino-3-methoxy-N-methylbenzamide and 2,5-dichloro-N-methylpyrimidin-4-amine. 1H NMR δ (ppm) (CDCl3): 8.58 (1H, d, J=8.4), 7.95-7.92 (1H, m), 7.70 (1H, s), 7.45 (1H, d, J=1.9), 6.09 (1H, s), 5.30 (1H, s), 4.03-3.95 (3H, m), 3.15-3.09 (3H, m), 3.02 (3H, t, J=4.8).

reactant | 4-amino-3-methoxy-N-methylbenzamide | NC1=C(C=C(C(=O)NC)C=C1)OC | C9H12N2O2
reactant | 2,5-dichloro-N-methylpyrimidin-4-amine | ClC1=NC=C(C(=N1)NC)Cl | C5H5Cl2N3
product | 4-(5-Chloro-4-(methylamino)pyrimidin-2-ylamino)-3-methoxy-N-methylbenzamide | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=O)NC)C=C1)OC)NC | C14H16ClN5O2
